US06949579B2
N-[7-fluoro-6-(trifluoromethyl)-1H-indazol-3-yl]butanamide
1.0 cm3 of butyryl chloride is added to 2.1 g of 7-fluoro-6-(trifluoromethyl)-1H-indazole-3-amine, prepared as in patent application WO 02/22608, in 20 cm3 of pyridine, after cooling to about 3° C., and the mixture is then left at room temperature for 76 hours. The reaction medium is concentrated under reduced pressure (2 kPa; 40° C.) and the residue is taken up in 50 cm3 of ethyl acetate and 20 cm3 of water. The organic phase is washed with 2×20 cm3 of distilled water and then with 20 cm3 of saturated aqueous sodium chloride solution. After drying over magnesium sulphate, filtration and concentration under reduced pressure (2 kPa; 40° C.), the residue obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a cyclohexane/ethyl acetate mixture (60/40 by volume). The fractions containing the expected product are combined and then evaporated under reduced pressure (2 kPa; 40° C.); after drying (90 Pa; 40° C.), 875 mg of N-[7-fluoro-6-(trifluoromethyl)-1H-indazol-3-yl)butanamide are obtained in the form of a pink solid melting at 220°-222° C.

reactant | butyryl chloride | 1.0 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 7-fluoro-6-(trifluoromethyl)-1H-indazole-3-amine | 2.1 g | FC=1C(=CC=C2C(=NNC12)N)C(F)(F)F | C8H5F4N3
solvent | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[7-fluoro-6-(trifluoromethyl)-1H-indazol-3-yl]butanamide | FC=1C(=CC=C2C(=NNC12)NC(CCC)=O)C(F)(F)F | C12H11F4N3O
